US07294628B2
A) 1-Benzyl-4-[4-chloro-3-(trifluoromethyl)phenyl]-4-piperidinol.
A mixture of 15 g of 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-piperidinol, 8.3 g of K2CO3 and 7.18 ml of benzyl bromide in 80 ml of DMF is left with stirring at AT for 2 days. The reaction mixture is poured into water and extracted with AcOEt, an insoluble product is filtered off, the organic phase is washed with water and with saturated NaCl solution and dried over Na2SO4 and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, eluting with a DCM/MeOH (95/5; v/v) mixture. This gives 14.6 g of the expected product.

reactant | 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-piperidinol | 15 g | ClC1=C(C=C(C=C1)C1(CCNCC1)O)C(F)(F)F | C12H13ClF3NO
reactant | K2CO3 | 8.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 7.18 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-4-[4-chloro-3-(trifluoromethyl)phenyl]-4-piperidinol | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C19H19ClF3NO
